US04124369
21 g (0.3 mol) of 1,2,4-triazole were added to 32.4 g (0.1 mol) of 1-bromo-3,3-dimethyl-1-phthalimido-butan-2-one in 200 ml of acetontrile. The mixture was heated for 24 hours under reflux and was then concentrated in a waterpump vacuum. The residue was taken up in 200 ml of methylene chloride and the solution was washed three times in 100 ml of water at a time, dried over sodium sulphate and concentrated in vacuo by distilling off the solvent. The residue was taken up in 200 ml of acetone, the solution was heated with active charcoal and filtered, and 18 g of 1,5-naphthalenedisulphonic acid were added to the filtrate. The resulting precipitate (25.4 g of the naphthalenedisulphonate salt of melting point 155°-162° C., with decomposition) was neutralized with sodium hydrogen carbonate solution. The oil thereby formed was recrystallized from petroleum ether/ethanol. 7.3 g (23% of theory) of 3,3-dimethyl-1-phthalimido-1-(1,2,4-triazol-4-yl)-butan-2 -one of melting point 189°-196° C. were obtained.

reactant | 1,2,4-triazole | 0.3 mol, 21 g | N1N=CN=C1 | C2H3N3
reactant | 1-bromo-3,3-dimethyl-1-phthalimido-butan-2-one | 0.1 mol, 32.4 g | BrC(C(C(C)(C)C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C14H14BrNO3
product | 3,3-dimethyl-1-phthalimido-1-(1,2,4-triazol-4-yl)-butan-2 -one | 7.3 g, 23% | CC(C(C(N1C=NN=C1)N1C(C=2C(C1=O)=CC=CC2)=O)=O)(C)C | C16H16N4O3
